US05414004
EXAMPLE 55 2,3-Dihydro-2-oxo-1-phenyl-3-(2-pyrazinylmethyl)-1H-indole-3-butanoic Acid Ethyl Ester.
By substituting 2,3-dihydro-2-oxo-1-phenyl-3-(2-pyrazinylmethyl)-1H-indol and ethyl 4-bromobutyrate in Example 1, the desired product was obtained in 80% yield as an oil.

reactant | 2,3-dihydro-2-oxo-1-phenyl-3-(2-pyrazinylmethyl)-1H-indol | O=C1N(C2=CC=CC=C2C1CC1=NC=CN=C1)C1=CC=CC=C1 | C19H15N3O
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | 2,3-Dihydro-2-oxo-1-phenyl-3-(2-pyrazinylmethyl)-1H-indole-3-butanoic Acid Ethyl Ester | 80% yield | C(C)OC(CCCC1(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)CC1=NC=CN=C1)=O | C25H25N3O3
